US04061761
a. 4-Bromo-3-sulfamoylbenzoyl chloride
10 g of 4-bromo-3-sulfamoylbenzoic acid were heated under reflux in a mixture of 80 ml of thionyl chloride and 50 ml of dioxane until HCl had completely developped. Then, the reaction mixture was concentrated under reduced pressure to 40 ml, 200 ml of petroleum ether were added and the crystals were filtered off. Melting point: 138° C (decomposition).

reactant | 4-bromo-3-sulfamoylbenzoic acid | 10 g | BrC1=C(C=C(C(=O)O)C=C1)S(N)(=O)=O | C7H6BrNO4S
reactant | HCl | Cl | ClH
solvent | thionyl chloride | 80 ml | S(=O)(Cl)Cl | Cl2OS
solvent | dioxane | 50 ml | O1CCOCC1 | C4H8O2
product | 4-Bromo-3-sulfamoylbenzoyl chloride | BrC1=C(C=C(C(=O)Cl)C=C1)S(N)(=O)=O | C7H5BrClNO3S
